US07582761B2
(a) {5-Chloro-6-[(3R)-3-methylpiperazin-1-yl]pyridin-3-yl}methanol
A mixture of 5,6-dichloro-3-pyridinemethanol (0.35 g, 2 mmol, TCI-US) and (R)-(−)-2-methylpiperazine (0.3 g. 3 mmol, Aldrich) reacted under the conditions of Example 43a to give the title compound as a light-brown solid. MS (ESI, pos. ion) m/z: 242 (M+1).

reactant | 5,6-dichloro-3-pyridinemethanol | 2 mmol, 0.35 g | ClC=1C=C(C=NC1Cl)CO | C6H5Cl2NO
reactant | (R)-(−)-2-methylpiperazine | 3 mmol, 0.3 g | C[C@H]1NCCNC1 | C5H12N2
product | {5-Chloro-6-[(3R)-3-methylpiperazin-1-yl]pyridin-3-yl}methanol | ClC=1C=C(C=NC1N1C[C@H](NCC1)C)CO | C11H16ClN3O
